Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Diplopia, not improved with strabismus surgery 
 
Major Surgical or Invasive Procedure:
___: Pipeline embolization of left intracavernous 
aneurysm

 
History of Present Illness:
___ is a ___ year old female who has been followed on an 
outpatient basis by Dr. ___ ___ for treatment for her 
left intracavernous aneurysm that was incidentally found during 
the workup of her CVA. As treatment for this lesion has evolved 
tremendously in the last few years and there is now an 
endovascular flow diverting device, Dr. ___ that 
the patient undergo elective pipeline embolization of her left 
intracavernous aneurysm. 
 
Past Medical History:
strabismus, blurry vision, CVA ___, anxiety
 
Social History:
___
Family History:
NC
 
Physical Exam:
___. PERRL ___, ___/ No drift, speech clear, MAE ___, 
right groin soft, small amount of ecchymosis, + distal pusles
 
Pertinent Results:
============
IMAGING
============

___ CAROTID/CEREBRAL COIL/STENT: 
Right carotid artery: The cervical right internal carotid artery 
shows some signs of arteriosclerotic change without significant 
stenosis. The anterior intracranial circulation is notable for a 
giant cavernous internal carotid artery aneurysm measuring 
approximately 27.4 mm in maximum diameter. After placement of a 
Pipeline embolization device there was some degree of stasis 
within the aneurysm. 

============
LABS
============

___ 03:00AM BLOOD WBC-7.1 RBC-3.57* Hgb-11.4 Hct-32.0* 
MCV-90 MCH-31.9 MCHC-35.6 RDW-13.4 RDWSD-43.9 Plt ___
___ 03:00AM BLOOD ___ PTT-27.8 ___
___ 03:00AM BLOOD Glucose-97 UreaN-11 Creat-0.9 Na-136 
K-3.7 Cl-101 HCO3-22 AnGap-17
 
Brief Hospital Course:
On ___ ___ was electively admitted for pipeline 
embolization of left intracavernous aneurysm. She underwent this 
procedure with Dr. ___ without complication and was sent from 
INR to the PACU for post-anesthesia care and monitoring. She was 
later transferred to the ___ for ongoing management. 

On ___, the patient remained neurologically and hemodynamically 
stable.  She was tolerating a regular diet and ambulating with 
nursing.  She was discharged home in stable condition.
 
Medications on Admission:
clopidogrel 75 mg daily 
Vitamin D2 100,000 unit daily
aspirin 325 mg daily
Metanx (algal oil) 3 mg-35 mg-2 mg-90.314 mg cap 1/week

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain  
2.  Artificial Tears ___ DROP BOTH EYES PRN dry eye  
3.  Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
4.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
5.  Docusate Sodium 100 mg PO BID  
6.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth Q4H PRN Disp #*21 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left intracavernous aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Activity
• You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
• Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
• You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
• Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
• You make take a shower.

Medications
• Resume your normal medications and begin new medications as 
directed.
• You are being discharged on aspirin and Plavix (clopidogrel). 
It is very important to take these medications to keep your 
blood thin and slippery. This will prevent clots from developing 
and sticking to the stent.
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
• If you take Metformin (Glucophage) you may start it again 
three (3) days after your procedure.

Care of the Puncture Site
• You will have a small bandage over the site.
• Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
•Keep the site clean with soap and water and dry it carefully.
• You may use a band-aid if you wish.

What You ___ Experience:
• Mild tenderness and bruising at the puncture site (groin).
• Soreness in your arms from the intravenous lines.
• The medication may make you bleed or bruise easily.
• Fatigue is very normal.

When to Call Your Doctor at ___ for:
• Severe pain, swelling, redness or drainage from the puncture 
site. 
• Fever greater than 101.5 degrees Fahrenheit
• Constipation
• Blood in your stool or urine
• Nausea and/or vomiting

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
• Sudden numbness or weakness in the face, arm, or leg
• Sudden confusion or trouble speaking or understanding
• Sudden trouble walking, dizziness, or loss of balance or 
coordination
• Sudden severe headaches with no known reason

 
Followup Instructions:
___